US05334740
Example 4 was repeated except that 4-acetoxy-3,5-bis(tert-butyldimethylsilyloxy)-2-hydroxymethylcyclohexanone was used instead of 2-hydroxymethyl-3,4-dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone to give 7-acetoxy-6,8-bis(tert-butyldimethylsilyloxy)-1,5,6,7,8,8a-hexahydro-3H-2-benzopyran-3-one having the following property (yield 34%).

reactant | 4-acetoxy-3,5-bis(tert-butyldimethylsilyloxy)-2-hydroxymethylcyclohexanone | C(C)(=O)OC1C(C(C(CC1O[Si](C)(C)C(C)(C)C)=O)CO)O[Si](C)(C)C(C)(C)C | C21H42O6Si2
reactant | 5-(methoxymethoxy)cyclohexanone | COCOC1CCCC(C1)=O | C8H14O3
product | 7-acetoxy-6,8-bis(tert-butyldimethylsilyloxy)-1,5,6,7,8,8a-hexahydro-3H-2-benzopyran-3-one | yield 34% | C(C)(=O)OC1C(C2C(=CC(OC2)=O)CC1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C23H42O6Si2
